US06403772B1
35 mmol of butyllithium (1.6 M solution in hexanes, 22 ml) were added slowly to a solution of 5,5-dimethyl-1,3-cyclohexadiene (35 mmol, 3.85 g) in THP (10 ml) and stirred overnight to give a solution of lithium 6,6-dimethylcyclohexadienide. (5,5-dimethyl-1,3-cyclohexadiene was prepared as described previously by P. T. DiMauro and P. T. Wolczanmki, Organometallics 1987, 6, 1947-1954.) Chlorodimethyl(9-fluorenyl)silane was prepared in situ as follows: 30.5 mmol of phenyllithium (1.8 M solution in cyclohexano-ether (70:30), 17 ml) were added slowly to a solution of fluorene in other (70 ml) at room temperature. After stirring overnight, solvents were removed in vacuo and the residue was washed with pentane. The resulting yellow solids were mixed with 60 ml of pentane, cooled to −78° C., and 60 mmol of dichlorodizethylsilane (7.3 ml) were added by syringe. After slowly warming the reaction flask to room temperature over the course of several hours, solvents and residual dichlorodimethylsilane were removed in vacuo. The product was dissolved in 60 ml of other without removing the LiCl and the lithium 6,6-dimethylcyclohexadienide solution described above was added slowly at −30° C. via cannula. After stirring overnight at room temperature, the reaction was quenched with 20 ml of a saturated NH4Cl solution. The aqueous layer was extracted with ether (2×20 ml) and the combined organic fractions were washed with water (2×20 ml), dried over MgSO4 filtered, and evaporated to an orange oil (9.20 g). The oil was chromatographed on silica gal using a 9:1 hexane-methylene chloride solvent mixture. Following a short run of an unidentified light oily product, 3.60 g of the title product were isolated as a colorless oil. Mass spectrum (m/e RA): 330(0.3), 223(100), 195(69), 165(23), 59(9.0). 1H-NMR (CDCl3) δ, ppm: 7.9 (d, 2H), 7.5 (d, 2H), 7.3 (m, 4H), 5.4 (m, 4H), 4.05 (s, 1H), 2.4 (m, 1H), 1.06 (s, 3H), 1.03 (s, 3H), 0.0 (s, 6H).

reactant | butyllithium | 35 mmol, 1.6 M, 22 ml | C(CCC)[Li]
reactant | 5,5-dimethyl-1,3-cyclohexadiene | 35 mmol, 3.85 g | CC1(C=CC=CC1)C | C8H12
product | lithium 6,6-dimethylcyclohexadienide | CC1(CC=CC=[C-]1)C.[Li+] | InChI=1S/C8H11.Li/c1-8(2)6-4-3-5-7-8;/h3-5H,6H2,1-2H3;/q-1;+1
